US05532267
6-Amidino-2-naphthyl 5-(4-carboxybutyrylaminomethyl)furan-2-carboxylate hydrochloride
To 8 g of 6-amidino-2-naphthyl 5-aminomethyl-furan-2-carboxylate dihydrochloride, 3.6 g of glutaric anhydride and 1.72 g of anhydrous sodium acetate was added 50 ml of DMF, and the resulting mixture was stirred at 20° C. for 20 hours.

reactant | 6-amidino-2-naphthyl 5-aminomethyl-furan-2-carboxylate dihydrochloride | 8 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | glutaric anhydride | 3.6 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | sodium acetate | 1.72 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Amidino-2-naphthyl 5-(4-carboxybutyrylaminomethyl)furan-2-carboxylate hydrochloride | Cl.C(=O)(O)CCCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C22H21N3O6.ClH/c23-21(24)15-5-4-14-11-16(7-6-13(14)10-15)31-22(29)18-9-8-17(30-18)12-25-19(26)2-1-3-20(27)28;/h4-11H,1-3,12H2,(H3,23,24)(H,25,26)(H,27,28);1H
